US07151105B2
Step 1: 2,6-diethyl-pyridine
A mixture of NaOH (14.7 g, 0.37 mol), hydrazine monohydrate (15 mL) and 2,6-diacetylpyridine (6 g, 36.8 mmol) suspended in diethylene glycol (27 mL) was cautiously heated to 120° C. for 16 hours. The mixture was cooled to room temperature and partitioned between H2O and ether. The ether extracts were washed with 1 N NaOH, dried over MgSO4 and concentrated to a clear oil. Flash column chromatography (0% to 15% EtOAc in hexanes) gave the product as a clear oil (2.9 g, 58%). 1H NMR (400 MHz, CDCl3): δ 1.29 (t, J=7.8 Hz, 3 H), 2.80 (d, J=7.8 Hz, 2 H), 6.97 (d, J=2.0 Hz, 2 H), 7.51 (t, J=7.6 Hz, 1 H).

reactant | NaOH | 0.37 mol, 14.7 g | [OH-].[Na+]
reactant | hydrazine monohydrate | 15 mL | O.NN
reactant | 2,6-diacetylpyridine | 36.8 mmol, 6 g | C(C)(=O)C1=NC(=CC=C1)C(C)=O | C9H9NO2
solvent | diethylene glycol | 27 mL | C(COCCO)O | C4H10O3
product | 2,6-diethyl-pyridine | 2.9 g, 58% | C(C)C1=NC(=CC=C1)CC | C9H13N
